US04985582
1-(4-Bromophenyl)-4-isobutyl-2,6-dioxa-7-thiabicyclo[2,2,2]octane
In an analogous manner, from 2,2-di-hydroxymethyl-3-methyl-butan-1-thiol or 2,2-di-hydroxymethyl-3-methyl-pentan-1-thiol and trimethyl 4-bromoorthobenzoate or trimethyl 4-chloro-orthobenzoate or trimethyl orthocyclohexyl-carboxylate the following compounds were prepared:

reactant | 2,2-di-hydroxymethyl-3-methyl-butan-1-thiol | OCC(CS)(C(C)C)CO | C7H16O2S
reactant | 2,2-di-hydroxymethyl-3-methyl-pentan-1-thiol | OCC(CS)(C(CC)C)CO | C8H18O2S
reactant | trimethyl 4-bromoorthobenzoate | COC(C1=CC=C(C=C1)Br)(OC)OC | C10H13BrO3
product | 1-(4-Bromophenyl)-4-isobutyl-2,6-dioxa-7-thiabicyclo[2,2,2]octane | BrC1=CC=C(C=C1)C12OCC(CO1)(CS2)CC(C)C | C15H19BrO2S
